US07501439B2
Purification of Isofagomine-HCl
Isofagomine free base (30 mg) was dissolved in MeOH (5 mL) and 4 N HCl (0.5 mL) in isopropanol and acetone (4.0 mL). The sample was stored refrigerated overnight and filtered. Crystals were observed in the solution. However, when filtered, the product was a yellow substance having a glue-like consistency.

reactant | Isofagomine | 30 mg | C1[C@@H]([C@H]([C@@H](CN1)O)O)CO | C6H13NO3
reactant | HCl | 4 N, 0.5 mL | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | acetone | 4.0 mL | CC(=O)C | C3H6O
product | Isofagomine HCl | C1[C@@H]([C@H]([C@@H](CN1)O)O)CO.Cl | InChI=1S/C6H13NO3.ClH/c8-3-4-1-7-2-5(9)6(4)10;/h4-10H,1-3H2;1H/t4-,5-,6-;/m1./s1
